US03968116
3,5-Dinitro-2-aminopyridine is reacted with difluoroacetic anhydride to obtain 3,5-dinitro-2-(difluoroacetamido)-pyridine, which in turn is hydrogenated in the presence of platinum to obtain 6-nitro-1-hydroxy-2-(difluoromethyl)-1H-imidazo(4,5-b)-pyridine.

reactant | 3,5-Dinitro-2-aminopyridine | [N+](=O)([O-])C=1C(=NC=C(C1)[N+](=O)[O-])N | C5H4N4O4
reactant | difluoroacetic anhydride | FC(C(=O)OC(C(F)F)=O)F | C4H2F4O3
product | 3,5-dinitro-2-(difluoroacetamido)-pyridine | [N+](=O)([O-])C=1C(=NC=C(C1)[N+](=O)[O-])NC(C(F)F)=O | C7H4F2N4O5
